US06506755B2
a) 5-[(2,5-Bis-benzyloxyphenyl)methylene]-4-oxo-2-thioxo-thiazolidine
1.59 g (5 mmol) of 2,5-bis-benzyloxybenzaldehyde, 0.73 g (5.5 mmol) of rhodanine, 0.29 g (2 mmol) of piperidine acetate and 40 ml of toluene were heated on a water separator under a nitrogen atmosphere for 1.5 hours. After cooling, the yellow crystals were filtered off under suction, washed with toluene and diethyl ether and dried in a vacuum: 1.34 g (62%) of 5-[(2,5-bis-benzyloxyphenyl)methylene]-4-oxo-2-thioxo-thiazolidine; 1HNMR (DMSO-d6, 250 MHz) δ 13.80 (s, 1H), 7.80 (s, 1H), 6.85-7.50 (m, 13H), 5.19 (s, 2H), 5.10 (s, 2H); TLC (toluene/methyl ethyl ketone/glacial acetic acid (72:20:8)): Rf=0.80.

reactant | 2,5-bis-benzyloxybenzaldehyde | 5 mmol, 1.59 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCC1=CC=CC=C1 | C21H18O3
reactant | rhodanine | 5.5 mmol, 0.73 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | piperidine acetate | 2 mmol, 0.29 g | C(C)(=O)O.N1CCCCC1
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-[(2,5-Bis-benzyloxyphenyl)methylene]-4-oxo-2-thioxo-thiazolidine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C=C1C(NC(S1)=S)=O | C24H19NO3S2
